Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fevers and chills
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr ___ is a ___ gentleman with BPH (on Flomax), 
and a history of Babesiosis and malaria, who presented with 
fevers and chills and is admitted for workup of new 
thrombocytopenia and neutropenic fever. 
 
The patient was in his usual state of health until ___ 
evening when he returned from a ___nd started to 
develop chills. He went to urgent care a ___ where 
he had a flu test that was negative. Labs were sent including 
babesia, ehrlichia, anaplasma, were negative. He was sent home 
with Tylenol and instructed to hydrate. His symptoms continued 
to persist with temps up to ___ so he returned to clinic on 
___ where he was found to be neutropenic and thrombocytopenic 
so he was sent to the ___ Ed for further management and 
evaluation. 

In the ED, initial VS were:  T102.8 93 115/73 19 96% RA 
Exam notable for: RRR. CTAB. NTND abd. No meningismus or neck 
tenderness. No c/c/e. No rash. Alert and warm to the touch. No 
lymphadenopathy
Labs showed: UA Sm blood, parasite smear neg, WBC 1.7/990 PMNs, 
6% bands, 2% atypicals, INR 1.2, ALT/AST ___, LDH 386, 
Tbili 0.4, Alb 3.3, Na 133, BUN/Cr ___, uric acid 4.1, INR 
1.2, fibrinogen 540, lac 1.3
Imaging showed: CXR w/RLL opacity

Consults:
ID: "hepatitis and tick borne illness labs, start empiric 
doxycycline, blood cultures." 

Patient received: Cefepime 2g, Vanc 1500mg, 1L NS, Doxy 100mg 
PO,
Flomax 0.4mg

On arrival to the floor, patient reports that he has experienced 
multiple tick-borne illnesses before including babesiosis a 
couple of years ago. He has recent travel to ___ and ___ 
___ and has felt normal since his return mid ___. He also 
notes that he pulled a tick off of his back the week prior to 
the onset of symptoms. He denies any chest pain, cough, LAD, 
diarrhea, constipation, dysuria. 
 
Past Medical History:
Positive PPD
Osteoporosis
Plantar fasciitis 
HEMORRHOIDS 
Impingement syndrome, shoulder 
CME (cystoid macular edema) 
Partial tear of rotator cuff
History of left total knee replacement (___) 
Vitreous detachment 
Irritable bowel syndrome (IBS) 
Advance directive discussed with patient 
___ 
Greater tuberosity of humerus fracture 
Elevated PSA 
 
Social History:
___
Family History:
Lung Cancer, Colon cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
VS: ___ 0139 Temp: 98.5 PO BP: 117/66 HR: 81 RR: 18 O2 sat:
94% O2 delivery: RA 
GENERAL: NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: coarse lung sounds, with rhonchi RL lung fields, 
breathing
comfortably without use of accessory muscles
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM
======================
24 HR Data (last updated ___ @ 525)
    Temp: 98.0 (Tm 98.7), BP: 110/67 (103-115/64-76), HR: 64
(54-64), RR: 16 (___), O2 sat: 97% (97-98), O2 delivery: Ra  
GENERAL: flushed, mildly diaphoretic, reclined in bed, in no
acute distress
HEENT: AT/NC, anicteric sclera, MMM
HEART: RRR, nl S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, breathing comfortably without use of accessory
muscles
ABDOMEN: +BS, nondistended, nontender, no hepatosplenomegaly
EXTREMITIES: no edema, 2+ ___ pulses b/l
NEURO: answering questions appropriately, moving all 4
extremities with purpose
SKIN: warm and well perfused, no rashes
 
Pertinent Results:
PERTINENT ADMISSION LABS
======================
___ 07:50PM BLOOD WBC-1.7* RBC-4.66 Hgb-14.5 Hct-41.6 
MCV-89 MCH-31.1 MCHC-34.9 RDW-13.5 RDWSD-44.8 Plt Ct-30*
___ 07:50PM BLOOD Neuts-52 Bands-6* ___ Monos-14* 
Eos-0 Baso-0 Atyps-2* ___ Myelos-0 AbsNeut-0.99* 
AbsLymp-0.48* AbsMono-0.24 AbsEos-0.00* AbsBaso-0.00*
___ 07:50PM BLOOD ALT-205* AST-201* LD(LDH)-386* 
AlkPhos-115 TotBili-0.4
___ 07:50PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-POS*

PERTINENT INTERVAL LABS
=====================
___ 06:33AM BLOOD calTIBC-194* VitB12-562 Folate-17 
Ferritn-1778* TRF-149*

PERTINENT DISCHARGE LABS
======================
___ 08:12AM BLOOD WBC-3.7* RBC-4.35* Hgb-13.4* Hct-39.1* 
MCV-90 MCH-30.8 MCHC-34.3 RDW-14.5 RDWSD-47.9* Plt ___
___ 08:12AM BLOOD ALT-192* AST-151* LD(LDH)-295* 
AlkPhos-101 TotBili-0.4
___ 08:12AM BLOOD Calcium-7.8* Phos-2.5* Mg-2.2

IMAGING/STUDIES
==============
CXR ___
IMPRESSION: 
Streaky right lower lobe opacity, which given the clinical 
history, is
concerning for developing pneumonia.
 
Brief Hospital Course:
Mr ___ is a ___ gentleman with BPH (on Flomax), 
and a history of babesiosis (in ___, ehrlichiosis, and malaria 
(in the 1970s), who presented with acute fevers and chills, 
found to have leukopenia, thrombocytopenia, and transaminitis in 
the setting of recent tick-exposure, most concerning for 
anaplasmosis.

ACUTE ISSUES
============
#Leukopenia and thrombocytopenia
#Transaminitis
#Presumed Anaplasmosis
Mr. ___ presented with several days of acute-onset 
fevers and chills after a recent tick exposure, found to be 
febrile with a leukopenia/neutropenia, thrombocytopenia, and 
transaminitis. His initial work-up for tick-borne illnesses 
(babesiosis, anaplasmosis, and Lyme disease) on ___ at his 
PCP's office was negative, but it is common for anaplasmosis 
antibodies to be negative early in the course of this infection. 
Anaplasmosis antibodies as well as PCR labs were redrawn on 
___, and these results are pending. Mr. ___ was 
started empirically on doxycycline (100 mg BID for ___ay 1 = ___. By the day of discharge (___), Mr. 
___ white blood cell count had improved to 3.7, 
neutrophil count to 2.1, and platelet count to 156. We suspect 
he has anaplasmosis based on his clinical improvement with 
treatment. 

#Positive hepatitis B core antibody:
Mr. ___ was found to have a positive hepatitis B core 
antibody with negative hepatitis B surface antigen and surface 
antibody. A repeat hepatitis B screening panel was still 
positive. This most likely reflects a resolved infection, but 
can also represent a low level chronic infection or a resolving 
acute infection. Per his PCP's records, he was vaccinated 
against hepatitis B in ___. We checked a hep B IgM level and 
viral load, which are pending, to rule out a low level chronic 
or acute resolving infection.

#Right lower lobe opacity:
#Neutropenic fever:
A streaky right lower lobe opacity was seen on CXR in the ED, 
which can indicate a developing pneumonia. He did not have any 
preceding respiratory symptoms (no cough, no sputum production, 
no difficulty breathing). He was started empirically on 
vancomycin and cefepime on ___ given his neutropenia; 
vancomycin was stopped on ___, and cefepime on ___. His last 
fever was to 101.0 at ___ on ___. His neutropenia had resolved 
by ___. 

CHRONIC ISSUES
==============
#Benign prostatic hypertrophy: Continued on his home Floxmax.

TRANSITIONAL ISSUES
===================
- Doxycycline to complete a 10d course (___)
- Pending lab results for PCP: anaplasmosis antibodies and PCR, 
Lyme antibodies, CMV, EBV, blood cultures, hepatitis B IgM 
antibody and viral load
- At follow up with primary care doctor in 1 week, would 
recommend repeat CBC w/ diff and LFTs to confirm they are 
normalizing. 
- Pending results hepatitis B tests, should determine whether 
further work-up, treatment, or re-vaccination is indicated.

#CODE: Full (presumed)
#CONTACT: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO BID 
2. Loratadine 10 mg PO DAILY:PRN allergies 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H 
Take twice a day for a 10-day course (day 1 = ___, last day = 
___. 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth Twice a day 
Disp #*15 Tablet Refills:*0 
2.  Loratadine 10 mg PO DAILY:PRN allergies  
3.  Tamsulosin 0.4 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Anaplasmosis (suspected)
Neutropenic fever

SECONDARY DIAGNOSIS
==================
Positive hepatitis B core antibody

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
It was a pleasure to take care of you at ___.  

WHY WERE YOU HERE?  
You were admitted to the hospital because you had fevers and 
chills, and your white blood cell and platelet counts were low. 

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL  
- While you were in the hospital you were started on antibiotics 
(doxycycline, vancomycin, and cefepime) because of concern you 
have an infection, anaplasmosis, as well as a possible 
pneumonia, and were found to have a very low white cell count 
which makes you vulnerable to more dangerous infections. 
- Your cell counts normalized with treatment of your infection, 
and the vancomycin and cefepime were stopped as they are not 
needed to treat anaplasmosis. We think it is unlikely you have a 
true pneumonia.  
- You underwent several blood tests during your stay to diagnose 
your infection, the results of which are pending and will be 
communicated to your PCP once they result. 
 
WHAT SHOULD YOU DO WHEN YOU GET HOME?  
1) Please follow up with your primary care doctor ___ below).  
2) Please take your medications as prescribed. The new 
medication we began is doxycycline 100 mg twice per day, which 
you should take for 10 days. (Day 1 was ___, so your last 
day will be ___ Note that doxycycline causes sensitivity 
to the sun, so please take care to wear clothing that covers 
your skin and sunscreen.

WHAT ARE REASONS TO RETURN TO THE HOSPITAL?
- Fevers or chills
- Abdominal pain
- Any other symptoms that concern you

We wish you the best!  
Your ___ Care Team  

 
Followup Instructions:
___